US04235621
In 150 ml of chloroform, 5.5 g of 2-(3-hydroxyphenoxy)-3-chloro-5-trifluoromethyl pyridine was dissolved and then, 3.5 g of bromine was added dropwise to the solution at a temperature of 10° to 15° C. After the reaction, the reaction product was washed with water, with a sodium bicarbonate aqueous solution, with a saturated sodium thiosulfate solution and then, with water and dried over anhydrous sodium sulfate. Chloroform was distilled off under a reduced pressure and the resulting crystals were washed with hexane and dried to obtain 3.0 g of 2-(3-hydroxy-4-bromophenoxy)-3-chloro-5-trifluoromethyl pyridine having a melting point of 124° to 127° C.

reactant | 2-(3-hydroxyphenoxy)-3-chloro-5-trifluoromethyl pyridine | 5.5 g | OC=1C=C(OC2=NC=C(C=C2Cl)C(F)(F)F)C=CC1 | C12H7ClF3NO2
reactant | bromine | 3.5 g | BrBr | Br2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-hydroxy-4-bromophenoxy)-3-chloro-5-trifluoromethyl pyridine | 3.0 g | OC=1C=C(OC2=NC=C(C=C2Cl)C(F)(F)F)C=CC1Br | C12H6BrClF3NO2
